US07247734B2
A solution of 4-chloro-2-methyl-benzene-1,3-diol (1 eq) and p-methoxy phenyl acetic acid (1 eq) in boron trifluoride diethyl etherate (8 eq) was refluxed for 5 h, whilst stirring, under nitrogen. The solution was allowed to cool to room temperature, quenched with 10% NaOAc (aq) and left to stand overnight. The resultant precipitate was filtered, washed with water and dried to give 1-(5-chloro-2,4-dihydroxy-3-methyl-phenyl)-2-(4-methoxy-phenyl)-ethanone as a solid.

reactant | 4-chloro-2-methyl-benzene-1,3-diol | 1 eq | ClC1=C(C(=C(C=C1)O)C)O | C7H7ClO2
reactant | p-methoxy phenyl acetic acid | 1 eq | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | boron trifluoride diethyl etherate | 8 eq | B(F)(F)F.CCOCC
product | 1-(5-chloro-2,4-dihydroxy-3-methyl-phenyl)-2-(4-methoxy-phenyl)-ethanone | ClC=1C(=C(C(=C(C1)C(CC1=CC=C(C=C1)OC)=O)O)C)O | C16H15ClO4
